US04208204
A mixture of 20 g. (0.16 moles) of 3-hydroxy-methylglutaronitrile, 200 ml of water, 32 ml (0.33 moles) of 30% hydrogen peroxide and 70 ml of 12 N hydrochloric acid is stirred at 25° C. for approximately 3 hours and then heated at reflux for 30 minutes. Thereafter the mixture is cooled, diluted to 1 liter with water and the pH adjusted to 7 with 14 N ammonium hydroxide. The mixture is passed through a 250 ml column of Dowex 2 resin in the formate form and the column is then washed with 1 liter of water. Thereafter the product is eluted with 1 liter of 0.1 N formic acid and the eluate evaporated to dryness under vacuum to afford 3-hydroxy-3-methylglutaric acid monoamide.

reactant | 3-hydroxy-methylglutaronitrile | 0.16 moles | OC(C(C#N)C)CC#N | C6H8N2O
reactant | hydrogen peroxide | 0.33 moles, 32 ml | OO | H2O2
reactant | hydrochloric acid | 12 N, 70 ml | Cl | ClH
reactant | ammonium hydroxide | 14 N | [OH-].[NH4+]
reactant | formate | C(=O)[O-]
reactant | water | O | H2O
reactant | water | 200 ml | O | H2O
product | 3-hydroxy-3-methylglutaric acid monoamide | OC(CC(=O)N)(CC(=O)O)C | C6H11NO4
